US07572808B2
C. Preparation of 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine
To a suspension of 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-fluoropyridine (0.32 g, 1 mmol) in pyridine (4 mL) at room temperature was added anhydrous hydrazine (1 mL). The resulting mixture was stirred at 90° C. for 1 hour. Analysis by HPLC/MS indicated the reaction was complete. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added water, and the resulting suspension was extracted with EtOAc (50 mL×3). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure to yield 0.28 g of the title compound (85%) as a white foam. HPLC/MS: retention time=3.03 min, [M+H]+=330.1.

reactant | 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-fluoropyridine | 1 mmol, 0.32 g | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)F)C1=CC=C(C=C1)Cl | C17H10Cl2FN
reactant | hydrazine | 1 mL | NN | H4N2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine | 0.28 g, 85% | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)NN)C1=CC=C(C=C1)Cl | C17H13Cl2N3
